US05134149
To a stirred solution of 4-cyano-1-[2-(4-fluorophenyl)ethyl]piperidine (1.00 g, 4.3 mmol) in THF (20 mL) under argon at 0° C. was added DIBAL-H (4.6 mL of a 1.0 M solution in THF, 4.6 mmol) via syringe. After stirring overnight at room temperature, 10% aqueous HCl (25 mL) was added and the solution was stirred for 3 hours. The entire mixture was then poured into 10% aqueous NaOH (50 mL), then extractd 2 x with ether. The combined organic layers were washed with brine, dried (MgSO4), filtered, and evaporated to afford a pale yellow oil. The oil was chromatographed on silica gel, eluting with EtOAc. The appropriate fractions were combined and evaporated to afford an oil. This oil was distilled (b.p. 166° C., 0.05 mm Hg) to afford 1-[2-(4-fluorophenyl)ethyl]-4-piperidinecarboxaldehyde, obtained as a colorless oil. Anal. Calcd for C14H18FNO: C, 71.46; H, 7.71; N, 5.95. Found: C, 71.08, H, 7.81; N, 5.86.

reactant | 4-cyano-1-[2-(4-fluorophenyl)ethyl]piperidine | 4.3 mmol, 1.00 g | C(#N)C1CCN(CC1)CCC1=CC=C(C=C1)F | C14H17FN2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | HCl | 25 mL | Cl | ClH
reactant | NaOH | 50 mL | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-[2-(4-fluorophenyl)ethyl]-4-piperidinecarboxaldehyde | FC1=CC=C(C=C1)CCN1CCC(CC1)C=O | C14H18FNO
